US06984743B1
A solution of 19 g (100 mmol) of titanium tetrachloride in 250 ml of dichloromethane is admixed at 0° C. with 9.0 g (100 mmol) of 1,2-dimethoxyethane and stirred at room temperature for another 1 hour. The solvent is subsequently taken off, giving 24 g (86%) of titanium tetrachloride-(1,2-dimethoxyethane) adduct as a yellow solid.

reactant | titanium tetrachloride | 100 mmol, 19 g | [Ti](Cl)(Cl)(Cl)Cl
reactant | 1,2-dimethoxyethane | 100 mmol, 9.0 g | COCCOC | C4H10O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | titanium tetrachloride-(1,2-dimethoxyethane) | 24 g, 86% | COCCOC.[Ti](Cl)(Cl)(Cl)Cl | InChI=1S/C4H10O2.4ClH.Ti/c1-5-3-4-6-2;;;;;/h3-4H2,1-2H3;4*1H;/q;;;;;+4/p-4
